US08168788B2
Step 2. Synthesis of 4-chloro-6-methoxy-quinazoline
To 0.852 mmoles of 6-methoxy-3H-quinazolin-4-one in 0.4M soln of DCE, add 1.022 mmoles of PCl5. Microwave at 150° C. for 4000 secs. Work-up: The reaction mixture was diluted with CH2Cl2 and washed with water and brine. The organic layer was separated dried over MgSO4, filtered and excess solvent was removed on rotavap to yield the title compound in 75% yield. The compound was used for the next step without further purification. LC-MS: m/z=195 (M++1)

reactant | 6-methoxy-3H-quinazolin-4-one | 0.852 mmoles | COC=1C=C2C(NC=NC2=CC1)=O | C9H8N2O2
reactant | DCE | ClCCCl | C2H4Cl2
reactant | PCl5 | 1.022 mmoles | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-methoxy-quinazoline | 75% yield | ClC1=NC=NC2=CC=C(C=C12)OC | C9H7ClN2O
